2157-08-24 07:04:00 Physician Resident Progress Note
Chief Complaint: This is a 30 year-old female with a history of spina
   bifida, recurrent UTIs, suprapubic catheter, treated for presumed
   urosepsis in the ICU last week who became unstable on the floor and now
   presents with hypoxia, tachypnea and requiring a non rebreather to
   maintain O2 sat >90%.
   24 Hour Events:
   Once on the floor, patient was started in CPAP, treated with
   albuterol/atrovent nebs with mucomyst.  She wore CPAP for several hours
   and her O2 sats were 98-100%.  However, she did not tolerate the mask
   all night and went back on facemask to keep 02 sats up.  She was up,
   agitated and yelling much of the night.  She received a 500 ml bolus to
   see if her tachycardia would respond but she continued to be tachy in
   120s.  This morning she received 1mg ativan for anxiety and was
   somnolent but arousable.
 PICC LINE - START [**2157-8-23**] 10:24 PM
 NON-INVASIVE VENTILATION - START [**2157-8-24**] 12:19 AM
 NON-INVASIVE VENTILATION - STOP [**2157-8-24**] 04:03 AM
 URINE CULTURE - At [**2157-8-24**] 04:39 AM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2157-8-23**] 11:31 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-8-24**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.7
   HR: 127 (113 - 127) bpm
   BP: 118/68(81) {100/51(63) - 118/83(83)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                     55 mL
                                                                  1,069 mL
   PO:
             TF:
   IVF:
                                                                     55 mL
                                                                  1,069 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    700 mL
   Urine:
                                                                    100 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -45 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP
   Vt (Spontaneous): 204 (204 - 204) mL
   PEEP: 10 cmH2O
   FiO2: 95%
   SpO2: 94%
   ABG: 7.29/76.[**Numeric Identifier 126**]/111/35/6
   Ve: 3.9 L/min
   PaO2 / FiO2: 117
   Physical Examination
   Gen: Sitting up in bed, anxious but NAD
   CV:tachy, regular rate. No murmur
   Pulm: Crackles bilaterally, expiratory wheeze and pops. No cyanosis.
   Abdomen: mildly distended, mildly tender, hard but not tight.
   Labs / Radiology
   254 K/uL
   7.6 g/dL
   107 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.4 mEq/L
   5 mg/dL
   101 mEq/L
   142 mEq/L
   27.2 %
   15.7 K/uL
        [image002.jpg]
                             [**2157-8-23**]  10:25 PM
                             [**2157-8-24**]  04:08 AM
   WBC
   15.7
   Hct
   24
   27.2
   Plt
   254
   Cr
   0.3
   TCO2
   38
   Glucose
   107
   Other labs: Lactic Acid:2.4 mmol/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   Assesment: This is a 30 year-old female with a history of spina bifida,
   recurrent UTIs, suprapubic catheter, treated for presumed urosepsis in
   the ICU last week who became unstable on the floor and now presents
   with hypoxia, tachypnea and requiring a non rebreather to maintain O2
   sat >90%.
   Plan:
   #Respiratory Distress:   Patient has failure of oxygenation and
   ventilation. Pulmonary process documented on CT [**8-21**] has a long
   differential diagnosis including atypical pneumonia (mycoplasma, c.
   pneumoniae, Cryptococcus, legionella, PCP) vs. inhalational injury vs.
   pulmonary hemorrhage vs. BOOP.  She meets some [**Month/Year (2) 509**] criteria (pa02/Fio2
   <200, bilateral patchy infiltrates, acute onset) so [**Month/Year (2) 509**] cannot be
   ruled out.  However,  her lung exam is impressive and often [**Month/Year (2) 509**] lung
   exams are more benign.
   -For oxygenation, we will continue on supplemental oxygen and try Bipap
   as tolerated.
   -For ventilation, we will use bipap as tolerated.
   -Expand antibiotic coverage to Vanco/Zosyn/Azithromycin for atypical
   pneumonia with concerning lung exam.
   -At this point, we will not treat prophylactically for PCP as she is
   clinically stable.   We will, however try to consent the patient for an
   HIV test because this would potentially change our differential and
   treatment.
   -To rule out [**Last Name (LF) 509**], [**First Name3 (LF) **] get TTE and BNP to evaluate pulmonary wedge
   pressure.
   -CXR in am
   -LDH
   -We would like to get a sputum culture but she is producing mouth
   secretions and not much sputum
   -Given the long differential diagnosis and concerning CT chest,
   diagnostic bronchoscopy would likely narrow our differential
   diagnosis.  The patient would need to be intubated and sedated for this
   procedure and may need someone to make decisions for her while she is
   intubated.  Currently, she does not have a health care POA and this
   will need to be sorted out before we perform a bronchoscopy.
   -check Legionella urinary anitgen, mycoplasma titres, serum crypto
   antigen
   -F/U ID recs
   -agressive nebs with albuterol/atrovent and acetylcystine
   -pulmonary toilet
   # Tachycardia- persistent tachycardia since admission. Tachycardia was
   noted on some, but not all prior admissions.  Originally thought to be
   due to sepsis.  [**Month (only) 51**] be related to intravascular depletion
   -Fluid bolus 500 NS
   -Monitor on Tele
   # Anemia- Hematocrit has trended down since admission (35 to 26).  Has
   remained hemodynamically stable without signs of active bleeding.
   Initial drop likely due to hemodilution, but continued drop is
   concerning for possible pumonary hemorrhage (though distribution of
   opacities makes this less likely).
    -check HCT in AM
   -guaiac stool
   #Abdominal Pain/Constipation- Patient with history of ileus and
   constipation. Currently on senna, polyethelene glycol, milk of magnesia
   and lactulose without recent BM.
   -Fleets Enema in AM
   -monitor abdominal exam, if worsening consider KUB.
   #Suprapubic Catheter and chronic UTIs
   -U/A is worsening, but difficult to interpret in the setting of chronic
   catheter.  Will c/s ID and f/u cultures
   -if patient becomes acutely worse, or signs of sepsis, we will treat
   for VRE with linezolid (though right now we think it is colonization
   and not infection
   #.  Pain control
   - Continue lidocaine patch, gabapentin, and morphine 15mg PRN.
   - Continue MS Contin 30 q8h standing
   # Sacral decubitus ulcer, longstanding.
   -follow wound care recs
   -will make sure this is not the source of her infection
   .
   # GERD - Continue omeprazole 20mg [**Hospital1 7**]
   .
   # Tobacco use - Continue nicotine patch
   .
   # FEN:  NPO tonight with CPAP.  Once CPAP off, can have regular diet.
   -check AM electrolytes
   .
   # Access: PICC
   .
   # PPx:  Heparin SC, omeprazole, bowel regimen.
   .
   # Code:  Full code
   .
   # Dispo:  ICU until above resolved
   .
   # Comm:  With patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2157-8-23**] 10:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-08-24 10:35:00 Physician Attending Progress Note
Chief Complaint: Respriratory distress, hypoxemia
   HPI:
   24 Hour Events:
 PICC LINE - START [**2157-8-23**] 10:24 PM
 NON-INVASIVE VENTILATION - START [**2157-8-24**] 12:19 AM
 NON-INVASIVE VENTILATION - STOP [**2157-8-24**] 04:03 AM
 URINE CULTURE - At [**2157-8-24**] 04:39 AM
   No significant new complaints.
   Tolerated non-invasive ventilation only intermittently and briefly
   (limited by anxiety).
   Received N-acetyl-cysteine via nebs to promote pulmonary toilet.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2157-8-23**] 11:31 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-15**] Mild
   Pain location: Abd
   Flowsheet Data as of  [**2157-8-24**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.2
   HR: 126 (113 - 127) bpm
   BP: 88/26(43) {88/26(43) - 118/83(83)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                     55 mL
                                                                  1,100 mL
   PO:
             TF:
   IVF:
                                                                     55 mL
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    800 mL
   Urine:
                                                                    100 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -45 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   Ventilator mode: CPAP
   Vt (Spontaneous): 204 (204 - 204) mL
   PEEP: 10 cmH2O
   FiO2: 95%
   SpO2: 91%
   ABG: 7.29/76/111/35/6
   Ve: 3.9 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Somnulant
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, somewhat firm to palpation
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   254 K/uL
   107 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.4 mEq/L
   5 mg/dL
   101 mEq/L
   142 mEq/L
   27.2 %
   15.7 K/uL
        [image002.jpg]
                             [**2157-8-23**]  10:25 PM
                             [**2157-8-24**]  04:08 AM
   WBC
   15.7
   Hct
   24
   27.2
   Plt
   254
   Cr
   0.3
   TCO2
   38
   Glucose
   107
   Other labs: Lactic Acid:2.4 mmol/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   yof progressive pulmonary infiltrates
   RESPIRATORY FAILURE -- ventilatory failure (possible chronic
   component), with radiographic evidence for progression of diffuse
   pulmonary infiltrates.  Poor tolerance of non-invasive ventilation.
   Low threshold for intubation and mechanical ventilation.
   PULMONARY INFILTRATES -- diffuse, bilateral, upper lung field
   predominate.  Unclear etiology, but concerns include infection
   (including atypical organisms), opportunistic infection (although not
   known to be immunocomporomised),  drug-induced, immune mediated,
   vasculitis, eosinophilic pneumonia, hemorrhage, or ARDS.  Would proceed
   with bronchoscopy (will require intubation) at least for procedure.
   Continue empirical antibiotics, including atypical coverage.
   ALKALOSIS -- rising HCO3 since [**2157-8-15**], may reflect worsening
   ventilation.  [**Month (only) 51**] be component of contraction alkalosis.
   ANASARCA -- unclear etiology.  Check BNP.  Check cardiac echo to assess
   LV function, RV funciton, valvular heart disease.
   RENAL FUNCTION -- preserved.  No evidence for pulmonary-renal
   syndrome.  Monitor uo, BUN, creat.
   UTI -- chronic.  Suprapubic catheter.
   NUTRITIONAL SUPPORT -- poor po intake due to resp. compromise.
   ANEMIA -- No obvious clinical blood loss. Possible alveolar hemorrhage.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2157-8-23**] 10:24 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2157-08-25 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient had an art line placed for serial ABGs.  She was intubated due
   to worsening hypercarbic respiratory failure and to perform diagnostic
   bronch.  She is on AC FIo2 60% 5 Peed 14x400, and started on fentanyl
   100 drip and versed 2 drip. bronch was performed.  Tried to wean Fi02
   to 50% but Po2 in the 60s so increased to 60% and peep of 8.  RSBI last
   night about 48.  This morning she had an SBT, RR 13 TV of 270.  Put
   back on AV, now.   She opens eyes to voice.  Complained of back pain
   and had a small bolus of fentnyl with good effect.
 ARTERIAL LINE - START [**2157-8-25**] 12:10 AM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2157-8-23**] 11:31 PM
   Vancomycin - [**2157-8-24**] 08:30 PM
   Cefipime - [**2157-8-24**] 10:00 PM
   Metronidazole - [**2157-8-25**] 01:30 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-8-25**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 134 (115 - 140) bpm
   BP: 133/77(98) {124/72(92) - 137/81(102)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                  2,579 mL
                                                                    188 mL
   PO:
             TF:
   IVF:
                                                                  2,579 mL
                                                                    188 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    475 mL
   Urine:
                                                                  1,645 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    934 mL
                                                                   -287 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 181 (181 - 383) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 20 cmH2O
   Plateau: 30 cmH2O
   SpO2: 94%
   ABG: 7.35/64/116/35/7
   Ve: 6.4 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   257 K/uL
   7.2 g/dL
   81 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.2 mEq/L
   8 mg/dL
   100 mEq/L
   142 mEq/L
   25.5 %
   13.8 K/uL
        [image002.jpg]
                             [**2157-8-23**]  10:25 PM
                             [**2157-8-24**]  04:08 AM
                             [**2157-8-24**]  10:33 AM
                             [**2157-8-24**]  01:17 PM
                             [**2157-8-24**]  09:54 PM
                             [**2157-8-25**]  04:20 AM
                             [**2157-8-25**]  04:38 AM
   WBC
   15.7
   13.8
   Hct
   24
   27.2
   24.8
   23
   25.5
   Plt
   254
   257
   Cr
   0.3
   0.3
   TCO2
   38
   42
   41
   37
   Glucose
   107
   81
   Other labs: PT / PTT / INR:13.7/30.2/1.1, Lactic Acid:0.9 mmol/L,
   LDH:348 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Assesment: This is a 30 year-old female with a history of spina bifida,
   recurrent UTIs, suprapubic catheter, treated for presumed urosepsis in
   the ICU last week who became unstable on the floor and now presents
   with hypoxia, tachypnea and requiring a non rebreather to maintain O2
   sat >90%.
   Plan:
   #Respiratory Distress:   Patient has failure of oxygenation and
   ventilation. Pulmonary process documented on CT [**8-21**] has a long
   differential diagnosis including atypical pneumonia (mycoplasma, c.
   pneumoniae, Cryptococcus, legionella, PCP) vs. inhalational injury vs.
   pulmonary hemorrhage vs. BOOP.  She meets some [**Month/Year (2) 509**] criteria (pa02/Fio2
   <200, bilateral patchy infiltrates, acute onset) so [**Month/Year (2) 509**] cannot be
   ruled out.  However,  her lung exam is impressive and often [**Month/Year (2) 509**] lung
   exams are more benign.
   -For oxygenation, we will continue on supplemental oxygen and try Bipap
   as tolerated.
   -For ventilation, we will use bipap as tolerated.
   -Expand antibiotic coverage to Vanco/Zosyn/Azithromycin for atypical
   pneumonia with concerning lung exam.
   -At this point, we will not treat prophylactically for PCP as she is
   clinically stable.   We will, however try to consent the patient for an
   HIV test because this would potentially change our differential and
   treatment.
   -To rule out [**Last Name (LF) 509**], [**First Name3 (LF) **] get TTE and BNP to evaluate pulmonary wedge
   pressure.
   -CXR in am
   -LDH
   -We would like to get a sputum culture but she is producing mouth
   secretions and not much sputum
   -Given the long differential diagnosis and concerning CT chest,
   diagnostic bronchoscopy would likely narrow our differential
   diagnosis.  The patient would need to be intubated and sedated for this
   procedure and may need someone to make decisions for her while she is
   intubated.  Currently, she does not have a health care POA and this
   will need to be sorted out before we perform a bronchoscopy.
   -check Legionella urinary anitgen, mycoplasma titres, serum crypto
   antigen
   -F/U ID recs
   -agressive nebs with albuterol/atrovent and acetylcystine
   -pulmonary toilet
   # Tachycardia- persistent tachycardia since admission. Tachycardia was
   noted on some, but not all prior admissions.  Originally thought to be
   due to sepsis.  [**Month (only) 51**] be related to intravascular depletion
   -Fluid bolus 500 NS
   -Monitor on Tele
   # Anemia- Hematocrit has trended down since admission (35 to 26).  Has
   remained hemodynamically stable without signs of active bleeding.
   Initial drop likely due to hemodilution, but continued drop is
   concerning for possible pumonary hemorrhage (though distribution of
   opacities makes this less likely).
    -check HCT in AM
   -guaiac stool
   #Abdominal Pain/Constipation- Patient with history of ileus and
   constipation. Currently on senna, polyethelene glycol, milk of magnesia
   and lactulose without recent BM.
   -Fleets Enema in AM
   -monitor abdominal exam, if worsening consider KUB.
   #Suprapubic Catheter and chronic UTIs
   -U/A is worsening, but difficult to interpret in the setting of chronic
   catheter.  Will c/s ID and f/u cultures
   -if patient becomes acutely worse, or signs of sepsis, we will treat
   for VRE with linezolid (though right now we think it is colonization
   and not infection
   #.  Pain control
   - Continue lidocaine patch, gabapentin, and morphine 15mg PRN.
   - Continue MS Contin 30 q8h standing
   # Sacral decubitus ulcer, longstanding.
   -follow wound care recs
   -will make sure this is not the source of her infection
   .
   # GERD - Continue omeprazole 20mg [**Hospital1 7**]
   .
   # Tobacco use - Continue nicotine patch
   .
   # FEN:  NPO tonight with CPAP.  Once CPAP off, can have regular diet.
   -check AM electrolytes
   .
   # Access: PICC
   .
   # PPx:  Heparin SC, omeprazole, bowel regimen.
   .
   # Code:  Full code
   .
   # Dispo:  ICU until above resolved
   .
   # Comm:  With patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2157-8-23**] 10:24 PM
   Arterial Line - [**2157-8-25**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-08-25 11:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2157-8-25**] 12:10 AM
   Remains intubated, mechanically ventilated.  Tolerated bronchoscopy
   yesterday.  Mode adjusted to IPS, tolerating.
   Hypotension with Propofol
 now versed & fentanyl, with good BP.
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2157-8-23**] 11:31 PM
   Vancomycin - [**2157-8-24**] 08:30 PM
   Cefipime - [**2157-8-24**] 10:00 PM
   Metronidazole - [**2157-8-25**] 08:32 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-8-25**] 08:34 AM
   Lansoprazole (Prevacid) - [**2157-8-25**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical venilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2157-8-25**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 136 (115 - 140) bpm
   BP: 125/76(94) {124/72(92) - 137/81(102)} mmHg
   RR: 14 (12 - 19) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                  2,579 mL
                                                                    359 mL
   PO:
             TF:
   IVF:
                                                                  2,579 mL
                                                                    359 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    795 mL
   Urine:
                                                                  1,645 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    934 mL
                                                                   -436 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 423 (181 - 423) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 20 cmH2O
   Plateau: 30 cmH2O
   SpO2: 95%
   ABG: 7.35/64/116/35/7
   Ve: 7.5 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ), musical
   breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.2 g/dL
   257 K/uL
   81 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.2 mEq/L
   8 mg/dL
   100 mEq/L
   142 mEq/L
   25.5 %
   13.8 K/uL
        [image002.jpg]
                             [**2157-8-23**]  10:25 PM
                             [**2157-8-24**]  04:08 AM
                             [**2157-8-24**]  10:33 AM
                             [**2157-8-24**]  01:17 PM
                             [**2157-8-24**]  09:54 PM
                             [**2157-8-25**]  04:20 AM
                             [**2157-8-25**]  04:38 AM
   WBC
   15.7
   13.8
   Hct
   24
   27.2
   24.8
   23
   25.5
   Plt
   254
   257
   Cr
   0.3
   0.3
   TCO2
   38
   42
   41
   37
   Glucose
   107
   81
   Other labs: PT / PTT / INR:13.7/30.2/1.1, Lactic Acid:0.9 mmol/L,
   LDH:348 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: BAL with 4% eosionphils
   Imaging: CXR ([**2157-8-25**])  diffuse parenchymal infiltrates, bilaterally.
   Assessment and Plan
   Diffuse pneumonia, respiratory failure.
   RESPIRATORY FAILURE -- attributed to diffuse pulmonary infiltrates -->
   pneumonia/pneumonitis vs. ARS.  Continue mechanical venitator support.
   Monitor ABG.  Hope to work towards SBT, but anticipate continued need
   for mechanical ventilation.  Lung protective strategy.
   PULMONARY INFILTRATES -- unclear [**Name2 (NI) 1129**].  Possible infection (CAP,
   opportunistic infectoin). [**Month (only) 51**] be component of pulmonary edema (ARDS vs.
   cardiogenic).  Eosinophils of only 4%, not consistent with acute
   eosinophilic pneumonia, but may be chronic eosinophilic pneumonia (but
   no history).  Consider ABPA.  Continue empirical antimicrobials,
   including atypical coverage.  Await BAL cultures.  with H/o PE, will
   check LE NIVS to exclude DVT.
   TACHYCARDIA -- sinus. persistent.  ? componoent of medication
   withdrawal (opiates).  Monitor.
   FLUIDS -- trial of net negative balance to determine whether component
   of pulmonary edema.
   UTI -- chronic suprapubic catheter
   IV ACCESS -- transition PICC from single lumen to double lumen.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2157-8-23**] 10:24 PM
   Arterial Line - [**2157-8-25**] 12:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2157-08-26 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Intubated, sedated on fentanyl @100. midaz @3.  SBT this am was stopped
   [**2-12**]  yo worsening on ABG 7.29/69/94.
   Diuresed 2L yesterday.
   Eosinophils 5.4 on peripheral diff yesterday.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2157-8-23**] 11:31 PM
   Vancomycin - [**2157-8-24**] 08:30 PM
   Cefipime - [**2157-8-24**] 10:00 PM
   Azithromycin - [**2157-8-25**] 03:06 PM
   Metronidazole - [**2157-8-26**] 12:30 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2157-8-25**] 08:34 AM
   Heparin Sodium (Prophylaxis) - [**2157-8-25**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-8-26**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 134 (122 - 136) bpm
   BP: 121/75(92) {107/64(79) - 131/79(97)} mmHg
   RR: 14 (12 - 20) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                    938 mL
                                                                    231 mL
   PO:
             TF:
   IVF:
                                                                    938 mL
                                                                    231 mL
   Blood products:
   Total out:
                                                                  2,975 mL
                                                                    620 mL
   Urine:
                                                                  2,975 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,037 mL
                                                                   -389 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 395 (395 - 423) mL
   PS : 10 cmH2O
   RR (Set): 13
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: 7.29/69/94.[**Numeric Identifier 126**]/31/3
   Ve: 4.9 L/min
   PaO2 / FiO2: 235
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   316 K/uL
   7.8 g/dL
   65 mg/dL
   0.4 mg/dL
   31 mEq/L
   5.1 mEq/L
   9 mg/dL
   102 mEq/L
   142 mEq/L
   26.9 %
   13.8 K/uL
        [image002.jpg]
                             [**2157-8-24**]  04:08 AM
                             [**2157-8-24**]  10:33 AM
                             [**2157-8-24**]  01:17 PM
                             [**2157-8-24**]  09:54 PM
                             [**2157-8-25**]  04:20 AM
                             [**2157-8-25**]  04:38 AM
                             [**2157-8-25**]  05:26 PM
                             [**2157-8-25**]  11:50 PM
                             [**2157-8-26**]  04:34 AM
                             [**2157-8-26**]  05:12 AM
   WBC
   15.7
   13.8
   11.8
   13.8
   Hct
   27.2
   24.8
   23
   25.5
   25.7
   26.9
   Plt
   [**Telephone/Fax (3) 1135**]16
   Cr
   0.3
   0.3
   0.3
   0.4
   TCO2
   42
   41
   37
   39
   35
   Glucose
   107
   81
   80
   65
   Other labs: PT / PTT / INR:14.2/26.4/1.2, Differential-Neuts:73.4 %,
   Lymph:15.7 %, Mono:5.1 %, Eos:5.4 %, Lactic Acid:0.9 mmol/L, LDH:348
   IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Assessment and Plan
   Assesment: This is a 30 year-old female with a history of spina bifida,
   recurrent UTIs, suprapubic catheter, treated for presumed urosepsis in
   the ICU last week who became unstable on the floor and came with  with
   hypoxia, tachypnea and requiring a non rebreather to maintain O2 sat
   >90%.  Then intubated for hypercarbic respiratory failure.
    Plan:
   #Respiratory Distress:   Patient with hypercarbic respiratory failure,
   now intubated.  This is likely secondary to her pulmonary process.
   Pulmonary process documented on CT [**8-21**] has a long differential
   diagnosis including atypical pneumonia (mycoplasma, c. pneumoniae,
   Cryptococcus, legionella, PCP) vs. inhalational injury vs. pulmonary
   hemorrhage vs. BOOP vs. PE.  Bronchoscopy yesterday was unrevealing,
   but ruled out pulmonary hemorrhage.  She meets some ARDS criteria
   (pa02/Fio2 <200, bilateral patchy infiltrates, acute onset) but also
   has evidence of Right heart strain (BNP >5000, TTE with hyperdynamic
   LV) and more likely explanation.
   -Try to wean FiO2 to .40 and PEEP to 5.  Continue to monitor ABGs
   -Metabolic acidosis likely increasing her need for ventilatory support,
   so will try to keep K>4.5, change IVF.
   -RSBI and SBT this afternoon vs. tomorrow morning
   -Continue antibiotic coverage with Vanc, cefepime and flagyl.  Will add
   azithromycin for atypical coverage.
   -Follow up cultures, HIV test
   -add galactomanin onto BAL
   -peripheral diff added on given eosinophilia seen on BAL.  In
   eosinophilic pna, typically >20% on BAL and not elevated on smear.
   -At this point, we will not treat prophylactically for PCP as she is
   clinically stable.
   -CXR in am
   -F/U ID recs
   -patient noted to be wheezing on exam, will find out if she has an
   asthma history.
   # Tachycardia- persistent tachycardia since admission. Tachycardia was
   noted on some, but not all prior admissions.  Originally thought to be
   due to sepsis.  Unlikely to be related to intravascular depletion.
   Patient has a history of PE, which cannot be ruled out.
    -LENIs
   -Monitor on Tele
   # Anemia- Hematocrit has trended down since admission (35 to 26).  Has
   remained hemodynamically stable without signs of active bleeding.
   Initial drop likely due to hemodilution, but continued drop is
   concerning for other source, though pulmonary hemorrhage is now
   unlikely given Bal results.
    -check HCT in PM
   -guaiac stool
   #Abdominal Pain/Constipation- Patient with history of ileus and
   constipation.
   -senna, , milk of magnesia and lactulose  down NG.  If no BM today,
   enema tomorrow.
   #Suprapubic Catheter and chronic UTIs
   -U/A is worsening, but difficult to interpret in the setting of chronic
   catheter.  Will c/s ID and f/u cultures
   -if patient [**Last Name (un) 1132**] signs of  sepsis, we will treat for VRE with
   linezolid (though right now we think it is colonization and not
   infection
   #.  Pain control : Patient now sedated.
    - D/C lidocaine patch, gabapentin, and morphine 15mg PRN.
   - D/C MS Contin 30 q8h standing
   # GERD - Continue omeprazole 20mg [**Hospital1 7**]
   # Tobacco use - Continue nicotine patch
   .
   # FEN:  NPO tonight with CPAP.  Once CPAP off, can have regular diet.
   # Access: PICC
   -will go down to IR for PICC replacement (needs a double lumen for
   access)
   .
   # PPx:  Heparin SC, omeprazole, bowel regimen.
   .
   # Code:  Full code.  Cousin [**Name (NI) 1035**] is her HCP
   .
   # Dispo:  ICU until above resolved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2157-8-23**] 10:24 PM
   Arterial Line - [**2157-8-25**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-08-26 11:45:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilation.  Poor tolerance for SBT.
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2157-8-23**] 11:31 PM
   Azithromycin - [**2157-8-25**] 03:06 PM
   Cefipime - [**2157-8-26**] 07:50 AM
   Metronidazole - [**2157-8-26**] 07:50 AM
   Vancomycin - [**2157-8-26**] 08:37 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-8-26**] 08:00 AM
   Lansoprazole (Prevacid) - [**2157-8-26**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2157-8-26**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 134 (122 - 135) bpm
   BP: 121/75(92) {107/64(79) - 124/79(95)} mmHg
   RR: 14 (12 - 20) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                    944 mL
                                                                    752 mL
   PO:
             TF:
   IVF:
                                                                    944 mL
                                                                    662 mL
   Blood products:
   Total out:
                                                                  2,975 mL
                                                                  1,130 mL
   Urine:
                                                                  2,975 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,031 mL
                                                                   -378 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 374 (374 - 395) mL
   PS : 10 cmH2O
   RR (Set): 13
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 20 cmH2O
   SpO2: 93%
   ABG: 7.31/65/77.[**Numeric Identifier 143**]/31/3
   Ve: 4.8 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   316 K/uL
   65 mg/dL
   0.4 mg/dL
   31 mEq/L
   5.1 mEq/L
   9 mg/dL
   102 mEq/L
   142 mEq/L
   26.9 %
   13.8 K/uL
        [image002.jpg]
                             [**2157-8-24**]  10:33 AM
                             [**2157-8-24**]  01:17 PM
                             [**2157-8-24**]  09:54 PM
                             [**2157-8-25**]  04:20 AM
                             [**2157-8-25**]  04:38 AM
                             [**2157-8-25**]  05:26 PM
                             [**2157-8-25**]  11:50 PM
                             [**2157-8-26**]  04:34 AM
                             [**2157-8-26**]  05:12 AM
                             [**2157-8-26**]  10:06 AM
   WBC
   13.8
   11.8
   13.8
   Hct
   24.8
   23
   25.5
   25.7
   26.9
   Plt
   257
   277
   316
   Cr
   0.3
   0.3
   0.4
   TCO2
   42
   41
   37
   39
   35
   34
   Glucose
   81
   80
   65
   Other labs: PT / PTT / INR:14.2/26.4/1.2, Differential-Neuts:73.4 %,
   Lymph:15.7 %, Mono:5.1 %, Eos:5.4 %, Lactic Acid:0.8 mmol/L, LDH:348
   IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR ([**2157-8-26**])  bilateral infiltrates, improved slightly
   Assessment and Plan
   Respiratory failure, ARDS.
   RESPIRATORY FAILURE -- multifactorial.  Suspect aspiration, pneumonia,
   ARDS.
   ARDS -- s/p aspiration.  Lung protective strategy.
   PNEUMONIA -- concern for possible aspiration pneumonia or CAP.
   continue empirical antimicrobials
   FLUIDS -- desire net negative balance.
   NUTRITIONAL SUPPORT -- initiate TF.
   TACHYCARDIA -- Baseline, stable.
   UTI -- suprapubic catheter.  Antimicrobials
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2157-8-23**] 10:24 PM
   Arterial Line - [**2157-8-25**] 12:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2157-08-27 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Did well.  Hypotensive briefly to 80s, given 500 NS bolus and responded
   appropriately.  Had been trying to diurese, but decided not to give any
   more Lasix.  Art line not working, now taking manual BPs.
   RSBI this AM 39,
   Decreased to fetanyl 100 and midaz 1.5, patient stil comfortable but
   more awake.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2157-8-26**] 07:50 AM
   Azithromycin - [**2157-8-26**] 02:09 PM
   Vancomycin - [**2157-8-26**] 08:27 PM
   Cefipime - [**2157-8-26**] 09:27 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2157-8-26**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2157-8-26**] 09:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-8-27**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.3
   HR: 113 (113 - 131) bpm
   BP: 103/55(67) {103/55(67) - 130/60(77)} mmHg
   RR: 11 (9 - 21) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 153.2 kg (admission): 70.6 kg
   Height: 59 Inch
             Total In:
                                                                  2,374 mL
                                                                    257 mL
   PO:
             TF:
                                                                     96 mL
                                                                    104 mL
   IVF:
                                                                  2,068 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                    430 mL
   Urine:
                                                                  1,685 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    689 mL
                                                                   -173 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 460 (374 - 522) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.39/39/120/34/0
   Ve: 7.2 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   309 K/uL
   7.3 g/dL
   85 mg/dL
   0.2 mg/dL
   34 mEq/L
   3.5 mEq/L
   7 mg/dL
   100 mEq/L
   142 mEq/L
   25.3 %
   13.9 K/uL
        [image002.jpg]
                             [**2157-8-25**]  04:20 AM
                             [**2157-8-25**]  04:38 AM
                             [**2157-8-25**]  05:26 PM
                             [**2157-8-25**]  11:50 PM
                             [**2157-8-26**]  04:34 AM
                             [**2157-8-26**]  05:12 AM
                             [**2157-8-26**]  10:06 AM
                             [**2157-8-26**]  03:43 PM
                             [**2157-8-27**]  03:20 AM
                             [**2157-8-27**]  03:59 AM
   WBC
   13.8
   11.8
   13.8
   13.9
   Hct
   25.5
   25.7
   26.9
   25.3
   Plt
   257
   277
   316
   309
   Cr
   0.3
   0.3
   0.4
   0.2
   TCO2
   37
   39
   35
   34
   38
   24
   Glucose
   81
   80
   65
   85
   Other labs: PT / PTT / INR:14.2/26.4/1.2, Differential-Neuts:73.4 %,
   Lymph:15.7 %, Mono:5.1 %, Eos:5.4 %, Lactic Acid:0.8 mmol/L, LDH:348
   IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Assesment: This is a 30 year-old female with a history of spina bifida,
   recurrent UTIs, suprapubic catheter, treated for presumed urosepsis in
   the ICU last week who became unstable on the floor and came with  with
   hypoxia, tachypnea and requiring a non rebreather to maintain O2 sat
   >90%.  Then intubated for hypercarbic respiratory failure.
    Plan:
   #Respiratory Distress:   Patient with hypercarbic respiratory failure,
   now intubated.  This is likely secondary to her pulmonary process.
   Pulmonary process documented on CT [**8-21**] has a long differential
   diagnosis including atypical pneumonia (mycoplasma, c. pneumoniae,
   Cryptococcus, legionella, PCP) vs. inhalational injury vs. pulmonary
   hemorrhage vs. BOOP vs. PE vs.  ARDS.  Bronchoscopy was unrevealing,
   but ruled out pulmonary hemorrhage.  She meets some ARDS criteria
   (pa02/Fio2 <200, bilateral patchy infiltrates, acute onset) but also
   has evidence of Right heart strain (BNP >5000, TTE with hyperdynamic
   LV) and more likely explanation.
   -has weaned down to 10/5, RSBI 39 this am, patient awake alwert. RT
   recommends extubation.
   -trying to keep K>4.5, to reverese her metabolic acidosis which further
   increases her respiratory hypercarbia.
   -Continue antibiotic coverage with Vanc, cefepime and azithromycin for
   atypical coverage.  D/C Flagyl yesterday.  Maybe continue to peel off
   antibiotics if she does not respond.  Infectious cause is still likely,
   but non-infectious cause definitely possible.
   -f/uchlamydia pneumoniae serologies.
   -HIV negative, so unlikely PCP.
   [**Name10 (NameIs) 1137**] in am
    -F/U ID recs
    # Tachycardia- persistent tachycardia since admission. Tachycardia was
   noted on some, but not all prior admissions.  Originally thought to be
   due to sepsis.  Unlikely to be related to intravascular depletion.
   Patient has a history of PE, which cannot be ruled out.
    -LENIs negative, unlikely PE.
   -Monitor on Tele
   # Anemia- Has remained hemodynamically stable without signs of active
   bleeding. Initial drop likely due to hemodilution, but drop is
   concerning for other source, though pulmonary hemorrhage is now
   unlikely given Bal results.
     -check HCT in PM, stable
    -guaiac stool
   #Abdominal Pain/Constipation- Patient with history of ileus and
   constipation.
   -senna, , milk of magnesia and lactulose  down NG.  BM yesterday,
   guaiac negative.
   #Suprapubic Catheter and chronic UTIs
   -ID recommends changing out suprpubic cath
   -if patient [**Last Name (un) 1132**] signs of  sepsis, we will treat for VRE with
   linezolid (though right now we think it is colonization and not
   infection
   #.  Pain control : Patient now sedated.
    - holding home lidocaine patch, gabapentin and MS contin .
   # GERD - Continue omeprazole 20mg [**Hospital1 7**]
   # Tobacco use - Continue nicotine patch
   # FEN:  Tube feeds.
   # Access: PICC
   -IR replaced PICC  [**8-26**]
   # PPx:  Heparin SC, omeprazole, bowel regimen.
   # Code:  Full code.  Cousin [**Name (NI) 1035**] is her HCP
   # Dispo:  ICU until above resolved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2157-8-23**] 10:24 PM
   Arterial Line - [**2157-8-25**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-08-27 10:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Transient hypotension last PM --> responded to iv fluid bolus.  A-line
   tracing somewhat dampened.
   Favorable RSBI this AM --> currently on SBT.
   Sedation reduced.
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2157-8-26**] 07:50 AM
   Azithromycin - [**2157-8-26**] 02:09 PM
   Cefipime - [**2157-8-27**] 08:00 AM
   Vancomycin - [**2157-8-27**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-8-26**] 09:27 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2157-8-27**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 117 (112 - 127) bpm
   BP: 130/76(89) {103/55(67) - 130/76(89)} mmHg
   RR: 14 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 153.2 kg (admission): 70.6 kg
   Height: 59 Inch
             Total In:
                                                                  2,374 mL
                                                                    605 mL
   PO:
             TF:
                                                                     96 mL
                                                                    104 mL
   IVF:
                                                                  2,068 mL
                                                                    501 mL
   Blood products:
   Total out:
                                                                  1,685 mL
                                                                    605 mL
   Urine:
                                                                  1,685 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    689 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 355 (355 - 522) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.39/39/120/34/0
   Ve: 5.3 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , Wheezes
   : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.3 g/dL
   309 K/uL
   85 mg/dL
   0.2 mg/dL
   34 mEq/L
   3.5 mEq/L
   7 mg/dL
   100 mEq/L
   142 mEq/L
   25.3 %
   13.9 K/uL
        [image002.jpg]
                             [**2157-8-25**]  04:20 AM
                             [**2157-8-25**]  04:38 AM
                             [**2157-8-25**]  05:26 PM
                             [**2157-8-25**]  11:50 PM
                             [**2157-8-26**]  04:34 AM
                             [**2157-8-26**]  05:12 AM
                             [**2157-8-26**]  10:06 AM
                             [**2157-8-26**]  03:43 PM
                             [**2157-8-27**]  03:20 AM
                             [**2157-8-27**]  03:59 AM
   WBC
   13.8
   11.8
   13.8
   13.9
   Hct
   25.5
   25.7
   26.9
   25.3
   Plt
   257
   277
   316
   309
   Cr
   0.3
   0.3
   0.4
   0.2
   TCO2
   37
   39
   35
   34
   38
   24
   Glucose
   81
   80
   65
   85
   Other labs: PT / PTT / INR:14.2/26.4/1.2, Differential-Neuts:73.4 %,
   Lymph:15.7 %, Mono:5.1 %, Eos:5.4 %, Lactic Acid:0.8 mmol/L, LDH:348
   IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Respiratory failure, ARDS
   RESPIRATORY FAILURE -- good progress, tolerating SBT.  Work towards
   extubation trial today.  Will need to monitor closely as CXR remains
   abnormal, and uncertain whether patient will be able to sustain
   extubation/spontaneous breathing once extubated.
   PULMONARY INFILTRATES -- attributed to ARDS.  Complete empiric course
   of antimicrobials.
   ARDS -- attributed to aspiration.
   NUTRITIONAL SUPPORT -- TF
   PAIN CONTROL -- resume usual regimen
   UTI -- suprapubic catheter may need replacing.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2157-8-23**] 10:24 PM
   Arterial Line - [**2157-8-25**] 12:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2157-08-28 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2157-8-27**] 12:29 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2157-8-26**] 07:50 AM
   Cefipime - [**2157-8-27**] 08:00 AM
   Vancomycin - [**2157-8-27**] 09:00 AM
   Azithromycin - [**2157-8-27**] 02:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-8-27**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-8-28**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 120 (112 - 130) bpm
   BP: 144/95(104) {102/55(68) - 147/95(104)} mmHg
   RR: 15 (11 - 26) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 155 kg (admission): 70.6 kg
   Height: 59 Inch
             Total In:
                                                                  1,456 mL
                                                                     68 mL
   PO:
             TF:
                                                                    104 mL
   IVF:
                                                                  1,353 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    590 mL
   Urine:
                                                                  2,200 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -744 mL
                                                                   -522 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 355 (355 - 355) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 92%
   ABG: ///29/
   Ve: 5.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   319 K/uL
   7.5 g/dL
   72 mg/dL
   0.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   6 mg/dL
   99 mEq/L
   141 mEq/L
   27.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2157-8-25**]  04:38 AM
                             [**2157-8-25**]  05:26 PM
                             [**2157-8-25**]  11:50 PM
                             [**2157-8-26**]  04:34 AM
                             [**2157-8-26**]  05:12 AM
                             [**2157-8-26**]  10:06 AM
                             [**2157-8-26**]  03:43 PM
                             [**2157-8-27**]  03:20 AM
                             [**2157-8-27**]  03:59 AM
                             [**2157-8-28**]  05:28 AM
   WBC
   11.8
   13.8
   13.9
   11.6
   Hct
   25.7
   26.9
   25.3
   27.2
   Plt
   277
   316
   309
   319
   Cr
   0.3
   0.4
   0.2
   0.3
   TCO2
   37
   39
   35
   34
   38
   24
   Glucose
   80
   65
   85
   72
   Other labs: PT / PTT / INR:14.2/26.4/1.2, Differential-Neuts:73.4 %,
   Lymph:15.7 %, Mono:5.1 %, Eos:5.4 %, Lactic Acid:0.8 mmol/L, LDH:348
   IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 30 year-old female with a history of spina bifida, recurrent
   UTIs, suprapubic catheter, treated for presumed urosepsis in the ICU
   last week who became unstable on the floor and came with  with hypoxia,
   tachypnea and requiring a non rebreather to maintain O2 sat >90%.  Then
   intubated for hypercarbic respiratory failure.
    Plan:
   #Respiratory Distress:   Patient with hypercarbic respiratory failure,
   now intubated.  ABG and RSBI this morning is reassuring.   Now having
   SBT.  Underlying pulmonary process appears unchanged and it is unclear
   why she has improved.  It is possible she responded to antibiotics, but
   also possible she has improving ARDS of unknown etiology.   She was not
   diuresed yesterday so it is unlikely that this is related to heart
   failure.  Lung biopsy might be diagnostic, but will unlikely change
   management and represents risk.
   -Extubated and doing well.
   -trying to keep K>4.5, to reverese her metabolic acidosis which further
   increases her respiratory hypercarbia.
   -It is unlikely her improvement is due to antiobiotic regimen given
   negative cultures this far.  We will continue azithromycin for 5 more
   days fo atypical coverage since this cannot yet be excluded.
   -f/uchlamydia pneumoniae serologies.
   -CXR in am
    -F/U ID recs
    # Tachycardia- persistent tachycardia since admission. Tachycardia was
   noted on some, but not all prior admissions.  Originally thought to be
   due to sepsis.  Unlikely to be related to intravascular depletion.
   Patient has a history of PE, which cannot be ruled out.
    -LENIs negative, unlikely PE.
   -Monitor on Tele
   -work up when patient more stable
   # Anemia- Has remained hemodynamically stable without signs of active
   bleeding. Initial drop likely due to hemodilution, but drop is
   concerning for other source, though pulmonary hemorrhage is now
   unlikely given Bal results.  Stool guaiac negative.  Probably anemia of
   chronic disease.  Will consider transfusion if HCT<21 or patient
   hemodynamically unstable.
     -check HCT in PM, stable
    -guaiac all stool
   #Abdominal Pain/Constipation- Patient with history of ileus and
   constipation.
   -senna, , milk of magnesia and lactulose  down NG.  BM yesterday,
   guaiac negative.
   #Suprapubic Catheter
   -ID recommends changing out suprpubic cath, we will talk to nursing,
   and if not possible will consult urology.
   #.  Pain control : Patient now sedated.
    - when patient extubated, will switch back to previous pain regimen .
   # GERD - Continue omeprazole 20mg [**Hospital1 7**]
   # Tobacco use - Continue nicotine patch
   # FEN:  Tube feeds.
   # Access: PICC.  A-line not working.  If patient is extubated and
   remainst hemodynamically stable we will not replace, but if she has any
   worsening, we will replace.
   -IR replaced PICC  [**8-26**]
   # PPx:  Heparin SC, omeprazole, bowel regimen.
   # Code:  Full code.  Cousin [**Name (NI) 1035**] is her HCP
   # Dispo:  ICU until above resolved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2157-8-23**] 10:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-08-28 09:17:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure/distress
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2157-8-27**] 12:29 PM
   Extubated yesterday, remains extubated.  Transient hypoxemia, recovered
   with increased FiO2.  Used CPAP overnight (baseline OSA).
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2157-8-26**] 07:50 AM
   Cefipime - [**2157-8-27**] 08:00 AM
   Vancomycin - [**2157-8-27**] 09:00 AM
   Azithromycin - [**2157-8-27**] 02:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-8-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2157-8-28**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (96.9
   HR: 117 (112 - 130) bpm
   BP: 133/84(95) {102/58(73) - 147/95(104)} mmHg
   RR: 24 (11 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 155 kg (admission): 70.6 kg
   Height: 59 Inch
             Total In:
                                                                  1,456 mL
                                                                     89 mL
   PO:
             TF:
                                                                    104 mL
   IVF:
                                                                  1,353 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    890 mL
   Urine:
                                                                  2,200 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -744 mL
                                                                   -801 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal, paraplegia/quadraparesis
   Labs / Radiology
   7.5 g/dL
   319 K/uL
   72 mg/dL
   0.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   6 mg/dL
   99 mEq/L
   141 mEq/L
   27.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2157-8-25**]  04:38 AM
                             [**2157-8-25**]  05:26 PM
                             [**2157-8-25**]  11:50 PM
                             [**2157-8-26**]  04:34 AM
                             [**2157-8-26**]  05:12 AM
                             [**2157-8-26**]  10:06 AM
                             [**2157-8-26**]  03:43 PM
                             [**2157-8-27**]  03:20 AM
                             [**2157-8-27**]  03:59 AM
                             [**2157-8-28**]  05:28 AM
   WBC
   11.8
   13.8
   13.9
   11.6
   Hct
   25.7
   26.9
   25.3
   27.2
   Plt
   277
   316
   309
   319
   Cr
   0.3
   0.4
   0.2
   0.3
   TCO2
   37
   39
   35
   34
   38
   24
   Glucose
   80
   65
   85
   72
   Other labs: PT / PTT / INR:14.2/26.4/1.2, Differential-Neuts:73.4 %,
   Lymph:15.7 %, Mono:5.1 %, Eos:5.4 %, Lactic Acid:0.8 mmol/L, LDH:348
   IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Resp. distress, ARDS.
   RESPIRATORY DISTRESS -- attributed to ARDS in context of aspiration.
   PNEUMONIA -- aspiration vs. ayipical pneumonia.  Complete course of
   Azithromycin.
   SEPSIS -- improved.  Monitor vital signs.
   SOMNULANCE -- attributed to narcotics.  Monitor.
   BACK PAIN -- chronic.  Narcotics prn.
   TACHYCARDIA -- baseline; somewhat improved.  Concern for pulmonary
   emboli, although has h/o Pulmonary emboli and IVC filter in place.
   NUTRITIONAL SUPPORT -- resume TF.  Speech swallow --> video swallow.
   OSA
 nasal CPAP.
   SUPRAPUBIC CATH -- changed.  Monitor UA.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2157-8-23**] 10:24 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2157-08-29 06:44:00 Physician Resident Progress Note
Chief Complaint:
   30 year old woman with spina bifida, hydrocephalus, chronic UTIs
   (suprapublic catheter), OSA hospitalized on [**8-15**] after found
   unresponsive after Etoh use.  Treated for Etoh withdrawl in [**Hospital 1025**]
   transferred to floor.  Did well until [**8-20**] the developed fever,
   leukocytosis, and infiltrates on CXR, thought possibly [**2-12**] aspiration
   event.  CT Chest  showed impressive bilateral upper lobe infiltrates,
   pt. treated for PNA though all cultures negative to date.  Worsening
   respiratory status on [**8-24**], transferred to ICU.  Patient intubated on
   [**8-25**] for hypercarbic respiratory distress and for bronchoscopy.
   Extubated [**8-27**].
   24 Hour Events:
   Patient extubated, O2 sat >90% on 5L.  CPAP overnight for sleep apnea.
   Patient refused NG for tube feeds, wil have [**Month/Year (2) 1080**] study today
   (concern for aspiration).  Complaining of back pain.
   Azithromycin day [**4-18**].
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2157-8-26**] 07:50 AM
   Cefipime - [**2157-8-27**] 08:00 AM
   Vancomycin - [**2157-8-27**] 09:00 AM
   Azithromycin - [**2157-8-28**] 02:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-8-28**] 08:00 AM
   Morphine Sulfate - [**2157-8-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-8-29**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.5
C (97.7
   HR: 115 (112 - 124) bpm
   BP: 126/85(94) {117/53(68) - 147/117(123)} mmHg
   RR: 22 (14 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 155 kg (admission): 70.6 kg
   Height: 59 Inch
             Total In:
                                                                    490 mL
                                                                     67 mL
   PO:
             TF:
   IVF:
                                                                    490 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    300 mL
   Urine:
                                                                  1,760 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,270 mL
                                                                   -234 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   391 K/uL
   7.2 g/dL
   88 mg/dL
   0.3 mg/dL
   30 mEq/L
   3.4 mEq/L
   5 mg/dL
   102 mEq/L
   144 mEq/L
   25.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2157-8-25**]  05:26 PM
                             [**2157-8-25**]  11:50 PM
                             [**2157-8-26**]  04:34 AM
                             [**2157-8-26**]  05:12 AM
                             [**2157-8-26**]  10:06 AM
                             [**2157-8-26**]  03:43 PM
                             [**2157-8-27**]  03:20 AM
                             [**2157-8-27**]  03:59 AM
                             [**2157-8-28**]  05:28 AM
                             [**2157-8-29**]  05:08 AM
   WBC
   11.8
   13.8
   13.9
   11.6
   11.6
   Hct
   25.7
   26.9
   25.3
   27.2
   25.6
   Plt
   277
   316
   309
   319
   391
   Cr
   0.3
   0.4
   0.2
   0.3
   0.3
   TCO2
   39
   35
   34
   38
   24
   Glucose
   80
   65
   85
   72
   88
   Other labs: PT / PTT / INR:14.2/26.4/1.2, Differential-Neuts:73.4 %,
   Lymph:15.7 %, Mono:5.1 %, Eos:5.4 %, Lactic Acid:0.8 mmol/L, LDH:348
   IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   This is a 30 year-old female with a history of spina bifida, recurrent
   UTIs, suprapubic catheter, treated for presumed urosepsis in the ICU
   last week who became unstable on the floor and came with  with hypoxia,
   tachypnea and requiring a non rebreather to maintain O2 sat >90%.  Then
   intubated for hypercarbic respiratory failure.
    Plan:
   #Respiratory Distress:   Likely ARDS [**2-12**] aspiration event or atypical
   PNA.  Intubated [**Date range (1) 1158**].  Now extubated.
   -Extubated and doing well.  Wean 02 today.
   -It is unlikely her improvement is due to antiobiotic regimen given
   negative cultures this far.  We will continue azithromycin for 7 day
   course for atypical coverage since this cannot yet be excluded.  Change
   to PO azithromycin 250mg, day [**4-18**]
   -f/uchlamydia pneumoniae serologies.
   -CXR in am
    # Tachycardia- persistent sinus tachycardia since admission.
   Tachycardia was noted on some, but not all prior admissions.
   Originally thought to be due to sepsis.  Unlikely to be related to
   intravascular depletion.  Patient has a history of PE, which cannot be
   ruled out, though LENIs negative on [**8-26**] and she has IVC filter in
   place.  Possibly [**2-12**] back pain.
    -CTA was initially planned, but patient has no PIV, which is needed
   for contrast.  CTA done [**8-20**] did not show evidence of PE, so unlikely to
   be the cause
   -Monitor on Tele
   # Anemia- Has remained hemodynamically stable without signs of active
   bleeding. Initial drop likely due to hemodilution, but drop is
   concerning for other source, though pulmonary hemorrhage is now
   unlikely given Bal results.  Stool guaiac negative.  Probably anemia of
   chronic disease.  Will consider transfusion if HCT<21 or patient
   hemodynamically unstable.
     -check HCT qday
    -guaiac all stool.  Guaiac negative yesterday.
    # OSA, chronic
   -CPAP at night
   #Abdominal Pain/Constipation- Patient with history of ileus and
   constipation.
   -Continue bowel regimen senna, milk of magnesia and lactulose  PO.
   #Suprapubic Catheter
   - suprpubic cath changed Saturday [**8-27**]
   #.  Pain control : chronic back pain, plan for MRI at BW (due to VP
   shunt and special machine needed).
   -restart home pain regimen
   # GERD - Continue omeprazole 20mg [**Hospital1 7**]
   # Tobacco use - Continue nicotine patch
   # FEN:  Due to concern for aspiration, wanted to put NG and begin Tube
   feeds.  However, patient does not want NG and aspiration history is
   unclear.
   - [**Name2 (NI) **] eval recommended honey thick liquids.
   # Access: PICC.  A-line not working.  If patient is extubated and
   remainst hemodynamically stable we will not replace, but if she has any
   worsening, we will replace.
   -IR replaced PICC  [**8-26**]
   # PPx:  Heparin SC, omeprazole, bowel regimen.
   # Code:  Full code.  Cousin [**Name (NI) 1035**] is her HCP
   # Dispo:  ICU until above resolved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2157-8-23**] 10:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critically Care
   Present for key portions of history and exam. Agree with assessment and
   plan as outlined.  She is c/o back pain but no breathlessness.  Exam
   notable for shallow breathing and chest wall abnormality.  Should have
   full PFTs and abg before discharge as she may have hypercarbia at
   baseline. Although comfortable now she has considerable residual dis on
   CXR and we do not know what caused this episode.
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2157-8-29**] 17:06 ------